US09227971B2
Step 1: Preparation of benzyl 2-(5-bromopyridin-2-yl)pyrrolidine-1-carboxylate
To a suspension of 5-bromo-2-(pyrrolidin-2-yl)pyridine (2.67 g, 11.8 mmol) in DCM (20 mL) at 0° C. was added DIEA (1.5 eq), followed by CbzCl (1.1 eq). The resulting clear solution was warmed to it and stirred for 2 h. The reaction mixture was washed with brine, dried over Na2SO4, and concentrated. The crude product was purified by a SiO2 column (0-50% EtOAc/Hexanes, Rf=0.35 in 50% EtOAc) to afford the titled compound as a brownish oil (3.63 g).

reactant | 5-bromo-2-(pyrrolidin-2-yl)pyridine | 11.8 mmol, 2.67 g | BrC=1C=CC(=NC1)C1NCCC1 | C9H11BrN2
reactant | DIEA | 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | CbzCl | 1.1 eq | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl 2-(5-bromopyridin-2-yl)pyrrolidine-1-carboxylate | 3.63 g | BrC=1C=CC(=NC1)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C17H17BrN2O2
